US03987039
To a solution of 3-formyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid (35 mg) in tetrahydrofuran (3 ml) is added a solution of O-methylhydroxylamine hydrochloride (13 mg) in water (1.5 ml), and the mixture is left standing for 24 hours. After evaporation of the tetrahydrofuran at room temperature, the separated yellow oil is extracted with ethyl acetate. The extract solution is washed with water, dried and evaporated to leave pale yellow foam which gives crystals of 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid (37 mg; nearly quantitative yield) by recrystallization from ether and ethyl acetate. m.p. 186°-189° C.

reactant | 3-formyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 35 mg | C(=O)C=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C14H12N2O5S2
reactant | O-methylhydroxylamine hydrochloride | 13 mg | Cl.CON
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
product | 3-methoxyiminomethyl-7β-(2-thienylacetamido)-3-cephem-4-carboxylic acid | quantitative yield | CON=CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C15H15N3O5S2
